US08461355B2
The 2,5-diethoxycarbonyl-3,4-ethylenedioxythiophene and NaOH are mixed in the microwave reactor. The microwave reactor is heated by the 2.45 GHz microwave at a power of 500-1200 W to perform hydrolysis reaction for no more than 20 minutes to obtain 2,5-dicarboxy-3,4-ethylenedioxythiophene.

reactant | 2,5-diethoxycarbonyl-3,4-ethylenedioxythiophene | C(C)OC(=O)C=1SC(=C2C1OCCO2)C(=O)OCC | C12H14O6S
reactant | NaOH | [OH-].[Na+]
product | 2,5-dicarboxy-3,4-ethylenedioxythiophene | C(=O)(O)C=1SC(=C2C1OCCO2)C(=O)O | C8H6O6S
